* Z:\home\chris\Code\MotorcycleBatteryIsolator\Draft1.asc
V1 N006 0 10
V2 N007 N009 14
R1 N001 N006 1
R2 N001 N007 1
M1 N008 N002 0 0 IRFZ46NS
D1 N009 N011 1N4148
R3 N011 0 20
M2 N008 N002 N009 N009 IRFZ46NS
V3 N003 N004 PULSE(0 1 .5 .01 .01 .5)
S1 N005 N002 N003 N004 MYSW
R5 N002 0 47e3
R7 N002 N009 47e3
C2 N005 N002 22µ V=50 Irms=130m Rser=0.721604 Lser=3.65781n mfg="Würth Elektronik" pn="860240673003 WCAP-AT1H 6,3x11" type="Al electrolytic"
M3 N002 N005 N001 N001 Si4433DY
R4 N001 N005 47e3
M4 N010 N002 0 0 IRFZ46NS
M5 N010 N002 N009 N009 IRFZ46NS
.model D D
.lib C:\users\chris\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\chris\Documents\LTspiceXVII\lib\cmp\standard.mos
.model MYSW SW(Ron=1 Roff=1Meg Vt=.5 Vh=-.4)
.tran 0 120 0
.backanno
.end
